US06121307
[3-(5-Fluoro-1H-indol-3-yl)propyl]-[2-(1H-indol-4-yloxy)-ethyl]-amine
A solution of 2-(1H-indol-4-yloxy)ethylchloride (0.7 g, 3.6 mmol), 5-fluoro-indolyl-3-propylamine (1.0 g, 5.4 mmol) in dimethylsulfoxide (20 ml) was allowed to stir for 12 hours at 90° C. The reaction mixture was poured into water (100 ml) and extracted with methylene chloride (3×100 ml). The organic layer was washed with water (3×150 ml), dried over anhydrous sodium sulfate, filtered and the solvent was removed under vacuum. Chromatography (5%-10% methanol-methylene chloride) afforded 0.54 g (43%) of product as a white solid: mp 70-73° C.

reactant | 2-(1H-indol-4-yloxy)ethylchloride | 3.6 mmol, 0.7 g | N1C=CC2=C(C=CC=C12)OCCCl | C10H10ClNO
reactant | 5-fluoro-indolyl-3-propylamine | 5.4 mmol, 1.0 g | FC=1C=C2C=C(NC2=CC1)NCCC | C11H13FN2
reactant | water | 100 ml | O | H2O
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | [3-(5-Fluoro-1H-indol-3-yl)propyl]-[2-(1H-indol-4-yloxy)-ethyl]-amine | 0.54 g, 43% | FC=1C=C2C(=CNC2=CC1)CCCNCCOC1=C2C=CNC2=CC=C1 | C21H22FN3O
